US06100405
(6-benzothiazol-2-yl(-naphthyl))diphenylamine
A mixture of N,N-diphenyl-6-amino-2-naphthaldehyde, (3.98 g., 0.0123 mol.), 2-aminothiophenol (1.5 ml, 0.014 mol.) and DMSO (20 ml) was heated to 180° C., held at this temperature for 45 minutes, and poured into water. The separated greenish solids were collected, air dried, transferred to a column of silica gel and eluted with 2:1 toluene-heptaneto get the product, 3.91 g. (74% yield), m.p. 186.1-187.3° C. Recrystallization from 1:1 toluene-heptane raised the m.p. to 188.1-189.5° C. Mass Spec: m/z 428 (M+). Analysis calculated for C29H20N2S: C, 81.29; H, 4.70; N, 6.54; S, 7.47. Found: C, 81.04; H, 4.88; N, 6.62; S, 7.31.

reactant | N,N-diphenyl-6-amino-2-naphthaldehyde | 0.0123 mol, 3.98 g | C1(=CC=CC=C1)N(C=1C=C2C=CC(=CC2=CC1)C=O)C1=CC=CC=C1 | C23H17NO
reactant | 2-aminothiophenol | 0.014 mol, 1.5 ml | NC1=C(C=CC=C1)S | C6H7NS
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (6-benzothiazol-2-yl(-naphthyl))diphenylamine | 74% yield | S1C(=NC2=C1C=CC=C2)C=2C=C1C=CC=C(C1=CC2)N(C2=CC=CC=C2)C2=CC=CC=C2 | C29H20N2S
